US09061067B2
(2-(2-(16-(5-Tetrazolyl)hexadecanoylamino)ethoxy)ethoxy)acetic acid
To a suspension of 2-chlorotrityl chloride resin (2 g; crosslinked polystyrene) in dichloromethane were added a solution of (2-(2-(9H-fluoren-9-ylmethoxycarbonylamino)ethoxy)ethoxy)acetic acid (0.55 g, 1.43 mmol) in dichloromethane (15 ml) and then a solution of DIPEA (0.65 ml) in dichloromethane (7 ml). After stirring at room temperature for 20 min methanol (2 ml) was added, and stirring was continued for 10 min. The resin was filtered, washed twice with dichloromethane and once with DMF. The resin was treated with a 20%-solution of piperidine in DMF (2×10 min), and washed extensively with DMF and dichloromethane. A solution of 16-(5-tetrazolyl)hexadecanoic acid (1.0 g, 3.08 mmol), 3-hydroxy-3,4-dihydro-1,2,3-benzotriazin-4-one (0.49 g, 3.0 mmol), and EDC (0.58 g, 3.03 mmol) in dichloromethane (25 ml) was added to the resin, and the mixture was shaken for 60 h. The resin was then extensively washed with DMF, dichloromethane and methanol, and suspended in a mixture of trifluoroacetic acid and dichloromethane (25:75; vol). After 0.5 h the resin was filtered, rinsed with dichloromethane, the combined filtrates were concentrated and the residue recrystallized from MeCN to yield 0.26 g of the title compound.

reactant | 2-chlorotrityl chloride resin | 2 g | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3Cl)Cl | C19H14Cl2
reactant | (2-(2-(9H-fluoren-9-ylmethoxycarbonylamino)ethoxy)ethoxy)acetic acid | 1.43 mmol, 0.55 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCCOCCOCC(=O)O | C21H23NO6
reactant | DIPEA | 0.65 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 16-(5-tetrazolyl)hexadecanoic acid | 3.08 mmol, 1.0 g | N1N=NN=C1CCCCCCCCCCCCCCCC(=O)O | C17H32N4O2
reactant | 3-hydroxy-3,4-dihydro-1,2,3-benzotriazin-4-one | 3.0 mmol, 0.49 g | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | EDC | 3.03 mmol, 0.58 g
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
product | (2-(2-(16-(5-Tetrazolyl)hexadecanoylamino)ethoxy)ethoxy)acetic acid | 0.26 g | N1N=NN=C1CCCCCCCCCCCCCCCC(=O)NCCOCCOCC(=O)O | C23H43N5O5
